US08258130B2
A solution of 5-fluoro-3-trimethylsilanylethynyl-pyridin-2-ylamine (3.2 g, 15.4 mmol) in MeOH (77 mL) and K2CO3 (11 g, 7.7 mmol) is stirred at rt for 0.5 h. The mixture is filtered through Celite and concentrated. The residue is purified by silica gel chromatography eluting with 15%-55% EtOAc in heptane to afford 3-ethynyl-5-fluoro-pyridin-2-ylamine (1.55 g, 74%). MS: 137 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.94 (d, 1H), 7.35 (m, 1H), 4.91 (s, NH2, 2H), 3.44 (s, 1H).

reactant | 5-fluoro-3-trimethylsilanylethynyl-pyridin-2-ylamine | 15.4 mmol, 3.2 g | FC=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13FN2Si
reactant | K2CO3 | 7.7 mmol, 11 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 77 mL | CO | CH4O
product | 3-ethynyl-5-fluoro-pyridin-2-ylamine | 1.55 g, 74% | C(#C)C=1C(=NC=C(C1)F)N | C7H5FN2
